US04415586
12.2 g (0.037 mol) of 3,3-bisfluoromethyl-1-(4-chlorophenoxy)-1-(imidazol-1-yl)-butan-2-ol were dissolved in 70 ml of acetic anhydride. The solution was stirred at 100° C. for 16 hours, the excess acetic anhydride was distilled off in vacuo and the residue was taken up in 300 ml of methylene chloride. The organic phase was washed twice with 800 ml of water each time, dried over sodium sulphate and concentrated. The residue was taken up in 100 ml of acetone, and a solution of 9 g (0.038 mol) of 1,5-naphthalenedisulphonic acid in 50 ml of acetone was added. After 2 hours, the precipitate which had formed was filtered off and dried. 13 g (68% of theory) of 2-acetoxy-3,3-bisfluoromethyl-1-(4-chlorophenoxy)-1-(imidazol-1-yl)-butane 1,5-naphthalenedisulphonate of melting point 221°-224° C. were obtained.

reactant | 3,3-bisfluoromethyl-1-(4-chlorophenoxy)-1-(imidazol-1-yl)-butan-2-ol | 0.037 mol, 12.2 g | FCC(C(C(N1C=NC=C1)OC1=CC=C(C=C1)Cl)O)(C)CF | C15H17ClF2N2O2
reactant | 1,5-naphthalenedisulphonic acid | 0.038 mol, 9 g | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O | C10H8O6S2
reactant | acetic anhydride | 70 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 2-acetoxy-3,3-bisfluoromethyl-1-(4-chlorophenoxy)-1-(imidazol-1-yl)-butane 1,5-naphthalenedisulphonate | 13 g, 68% | C1(=CC=CC=2C(=CC=CC12)S(=O)(=O)O)S(=O)(=O)O.C(C)(=O)OC(C(N1C=NC=C1)OC1=CC=C(C=C1)Cl)C(C)(CF)CF | InChI=1S/C17H19ClF2N2O3.C10H8O6S2/c1-12(23)24-15(17(2,9-19)10-20)16(22-8-7-21-11-22)25-14-5-3-13(18)4-6-14;11-17(12,13)9-5-1-3-7-8(9)4-2-6-10(7)18(14,15)16/h3-8,11,15-16H,9-10H2,1-2H3;1-6H,(H,11,12,13)(H,14,15,16)
